US06627755B1
3-(2-Chloro-phenyl)-6-fluoro-2-(pyrimidin-2-ylaminomethyl)-3H-quinazolin-4-one
A mixture of 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (0.200 g, 0.66 mmol), methanol (20 mL), and 2-aminopyrimidine (0.059 g, 0.62 mmol) was refluxed 29 hours. The mixture was cooled to room temperature and 10% palladium on carbon (0.236 g) and formic acid (1.1 mL) were added. The mixture was allowed to stir at ambient temperature overnight. The reaction was treated with 6 N sodium hydroxide to adjust the pH to 10. The mixture was filtered through celite and the pad was washed with ethyl acetate. The filtrate was dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (20 g) with elution proceeding as follows: 10% ethyl acetate/hexane (500 mL), nil; 20% ethyl acetate/hexane (250 mL), unweighed impurity, 20% ethyl acetate/hexane (100 mL), mixed fraction, unweighed; 20% ethyl acetate/hexane (150 mL) and 30% ethyl acetate/hexane (150 mL), unweighed 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-methanol (a side product). Elution was continued: 30% ethyl acetate/hexane 410 mL), nil; 40% ethyl acetate/hexane (450 mL), nil; 40% ethyl acetate/hexane (50 mL) and 50% ethyl acetate/hexane (450 mL), 0.028 g (8%) of 3-(2-Chloro-phenyl)-6-fluoro-2-(pyrimidin-2-ylaminomethyl)-3H-quinazolin-4-one as a white solid which had: mp 182-185° C.; 1H NMR δ 8.29 (d, J=5 Hz, 2H), 7.92 (dd, J=3, 8 Hz, 1H), 7.82 (dd, J=5, 9 Hz, 1H), 7.66-7.64 (m, 1H), 7.55-7.49 (m, 3H), 7.40-7.38 (m, 1H), 6.63 (t, J=5 Hz, 1H), 4.28 (dd, J=4.5, 18 Hz, 1H), 4.11 (dd, J=4, 18 Hz, 1H). Analysis calculated for C19H11ClFN5O.0.75 H2O: C, 58.05; H, 3.20; N, 17.81. Found: C, 58.06; H, 3.25; N, 17.33. APCI MS m/z=382 P+1).

reactant | 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 0.66 mmol, 0.200 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C15H8ClFN2O2
reactant | methanol | 20 mL | CO | CH4O
reactant | 2-aminopyrimidine | 0.62 mmol, 0.059 g | NC1=NC=CC=N1 | C4H5N3
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
catalyst | palladium on carbon | 0.236 g | [Pd] | Pd
solvent | formic acid | 1.1 mL | C(=O)O | CH2O2
product | 3-(2-Chloro-phenyl)-6-fluoro-2-(pyrimidin-2-ylaminomethyl)-3H-quinazolin-4-one | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)CNC1=NC=CC=N1 | C19H13ClFN5O
